US07968583B2
Preparation of 3-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-benzoylamino]-6,6-dimethyl-4H,6H-pyrrolo[3,4-c]pyrazole-2,5-dicarboxylic acid 5-tert-butyl ester 2-ethyl ester
To a suspension of 2-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-benzoic acid (1.35 g, 4.8 mmol) in dry dichloromethane (30 mL), at 0° C., under stirring, was added oxalyl chloride (2.1 mL, 24 mmol) and dry N,N-dimethylformamide (35 microL). The mixture was allowed to warm to room temperature, stirred for 1.5 hours then evaporated to dryness. The residue was diluted with dry toluene and evaporated again. The crude acyl chloride thus obtained (yellow solid) was dissolved in dry tetrahydrofuran (20 mL) and treated with N,N-diisopropylethylamine (2.5 mL, 15 mmol) and with a solution of 3-amino-6,6-dimethyl-4H,6H-pyrrolo[3,4-c]pyrazole-2,5-dicarboxylic acid 5-tert-butyl ester 2-ethyl ester (1.3 g, 4 mmol) in 15 mL of dry tetrahydrofuran. The mixture was stirred at room temperature for 2 days then evaporated to dryness. The residue was dissolved in dichloromethane, washed with 1N HCl, water, saturated solution of NaHCO3, brine, dried over sodium sulfate and evaporated to dryness. The crude was purified by flash chromatography on silica gel using dichloromethane/methanol 98.5:1.5 as the eluant affording the title compound as white solid (1.5 g).

reactant | 2-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-benzoic acid | 4.8 mmol, 1.35 g | O=C1N(C(C2=CC=CC=C12)=O)CC1=C(C(=O)O)C=CC=C1 | C16H11NO4
reactant | oxalyl chloride | 24 mmol, 2.1 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-diisopropylethylamine | 15 mmol, 2.5 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-amino-6,6-dimethyl-4H,6H-pyrrolo[3,4-c]pyrazole-2,5-dicarboxylic acid 5-tert-butyl ester 2-ethyl ester | 4 mmol, 1.3 g | CCOC(=O)N1N=C2C(=C1N)CN(C2(C)C)C(=O)OC(C)(C)C | C15H24N4O4
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-[2-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-benzoylamino]-6,6-dimethyl-4H,6H-pyrrolo[3,4-c]pyrazole-2,5-dicarboxylic acid 5-tert-butyl ester 2-ethyl ester | 1.5 g | CCOC(=O)N1N=C2C(=C1NC(C1=C(C=CC=C1)CN1C(C3=CC=CC=C3C1=O)=O)=O)CN(C2(C)C)C(=O)OC(C)(C)C | C31H33N5O7
